US08686048B2
Intermediate 21: 3′-butoxy-3-chloro-5-fluorobiphenyl-4-amine
The title compound (0.190 g) was prepared from 4-bromo-2-chloro-6-fluoroaniline (0.2 g, 0.89 mmol) and 3-butoxyphenylboronic acid (0.224 g, 1.16 mmol) as a yellow solid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.44-7.41 (m, 2H), 7.27 (t, J 7.9, 1H), 7.17-7.10 (m, 2H), 6.81-6.84 (m, 1H), 5.50 (s, 2H), 4.01 (t, J 5.3, 2H), 1.72-1.65 (m, 2H), 1.50-1.41 (m, 2H), 0.93 (t, J 7.4, 3H).

reactant | 4-bromo-2-chloro-6-fluoroaniline | 0.89 mmol, 0.2 g | BrC1=CC(=C(N)C(=C1)F)Cl | C6H4BrClFN
reactant | 3-butoxyphenylboronic acid | 1.16 mmol, 0.224 g | C(CCC)OC=1C=C(C=CC1)B(O)O | C10H15BO3
product | 3′-butoxy-3-chloro-5-fluorobiphenyl-4-amine | 0.190 g | C(CCC)OC=1C=C(C=CC1)C1=CC(=C(C(=C1)F)N)Cl | C16H17ClFNO
